US04002623
In a two liter, three-necked flask fitted with condenser, dropping funnel, thermometer, magnetic stirrer and nitrogen inlet was placed 71.8 g. (0.456 mole) 1-(3-aminopropyl)-4-methyl piperazine and 150 ml. of ethanol. The solution was heated at reflux and a solution of 65.0 g. 2-chloro-3-nitropyridine dissolved in 500 ml. of warm ethanol was added dropwise over 90 minutes. The dark yellow reaction mixture was maintained at reflux of an additional hour then cooled to ambient temperature. The solvent was then removed in vacuo to obtain a yellow-brown semi-solid residue. The residue was partitioned between 200 ml. each of aqueous 1N HCl and methylene chloride, and aqueous phase washed with 100 ml. CH2Cl2. The aqueous portion was made basic with 6N NaOH and extracted with 3 × 250 ml. CH2Cl2. The combined organic layers were dried over Na2SO4 and the solvent evaporated to afford 2-[3-(4-methyl-1-piperazinyl)-propylamino]-3-nitropyridine as a red-yellow oil which crystallized on standing at room temperature; yield 82.9 g. (72%).

reactant | 1-(3-aminopropyl)-4-methyl piperazine | 0.456 mole | NCCCN1CCN(CC1)C | C8H19N3
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | C(C)O | C2H6O
product | 2-[3-(4-methyl-1-piperazinyl)-propylamino]-3-nitropyridine | CN1CCN(CC1)CCCNC1=NC=CC=C1[N+](=O)[O-] | C13H21N5O2
